US06949553B2
Synthesis of (9Z,12Z)-N-[2-(1-methylpyrrolidin-2-yl)ethyl]linoleamide (Compound 6)
Toluene (0.7 ml), dried using MS 4A, was mixed with 0.83 ml of a n-hexane solution of 15% Me3Al. With the mixture being cooled in an ice-methanol bath, 0.14 ml (0.98 mmol) of 2-(2-aminoethyl)-1-methylpyrrolidine was added dropwise over about 2 minutes. After stirring for 20 minutes, the temperature was raised to room temperature, and 0.4 ml of a toluene solution of 0.2 g (0.65 mmol) of linoleic acid ethyl ester was added dropwise over 1 minute. After stirring for 2 hours at 70° C., the mixture was cooled with ice, and 10 ml of a 1N NaOH solution was added dropwise (inner temperature 12˜27° C.). The mixture was stirred for 10 minutes, and water and ethyl acetate were added. Then, the mixture was separated into respective layers, and the organic layer was washed twice with 20 ml of a saturated aqueous solution of sodium chloride. After this layer was dried over anhydrous magnesium sulfate, it was concentrated under reduced pressure on a 30° C. water bath to obtain the captioned compound (yield 0.114 g). This compound was subjected to silica gel column chromatography (mobile phase: CHCl3:MeOH (19:1→9:1)) for purification. NMR and mass spectrum confirmed the purified compound to have the following structure:

reactant | 2-(2-aminoethyl)-1-methylpyrrolidine | 0.98 mmol, 0.14 ml | NCCC1N(CCC1)C | C7H16N2
reactant | toluene | 0.4 ml | C1(=CC=CC=C1)C | C7H8
reactant | linoleic acid ethyl ester | 0.65 mmol, 0.2 g | C(C)OC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C20H36O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (9Z,12Z)-N-[2-(1-methylpyrrolidin-2-yl)ethyl]linoleamide | yield 0.114 g | CN1C(CCC1)CCNC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C25H46N2O
